US07910592B2
To a solution of 6-iodoindane-5-carbaldehyde (35.5 mg, 0.131 mmol) in anhydrous EtOH (3 mL) under N2 at 0° C., was added sodium borohydride (20 mg, 0.522 mmol) as a powder. The mixture was warmed to room temperature and stirred for 0.5 h. The mixture was quenched with water. The aqueous layer was extracted with EtOAc (3×). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (Si, hexanes/EtOAc) to afford (6-iodo-2,3-dihydro-1H-inden-5-yl)methanol. 1H NMR (500 MHz, CDCl3) δ 7.70 (s, 1H), 7.33 (s, 1H), 4.68 (d, J=6.3 Hz, 2H), 2.92-2.88 (m, 4H), 2.12-2.06 (m, 2H), 1.96 (t, J=6.4 Hz, 1H).

reactant | 6-iodoindane-5-carbaldehyde | 0.131 mmol, 35.5 mg | IC1=C(C=C2CCCC2=C1)C=O | C10H9IO
reactant | sodium borohydride | 0.522 mmol, 20 mg | [BH4-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | (6-iodo-2,3-dihydro-1H-inden-5-yl)methanol | IC1=C(C=C2CCCC2=C1)CO | C10H11IO
